US04273778
3-amino-9-methyl-9-azabicyclo[3.3.1]nonane (D15); intermediate for Compound 21
N-methyl-9-azabicyclo-[3.3.1]-nonan-3-one oxime (3.25 g., 0.02 mole) was dissolved in ethanol and hydrogenated over Raney nickel in the presence of ammonium acetate at 300 p.s.i. at 50° C. for 24 hours. The mixture was filtered, evaporated in vacuo, dissolved in dilute hydrochloric acid, basified and extracted into ethyl acetate. The combined organic layers were dried (K2CO3), filtered and evaporated in vacuo to yield 3-amino-9-methyl-9-azabicyclo-3.3.1]-nonane (2.67 g., 90%), used without further purification.

reactant | N-methyl-9-azabicyclo-[3.3.1]-nonan-3-one oxime | 0.02 mole, 3.25 g | CN1C2CC(CC1CCC2)=NO | C9H16N2O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane | NC1CC2CCCC(C1)N2C | C9H18N2
